US07943788B2
5-Bromo-1-(5-(3-fluorophenyl)-2-thienylmethyl)-2-methylbenzene
2-(3-Fluorophenyl)thiophene obtained in Reference Example 75—(1) and 5-bromo-2-methylbenzoic acid obtained in Reference Example 4-(1) were treated in a manner similar to Reference Example 5 to give the target compound.

reactant | 2-(3-Fluorophenyl)thiophene | FC=1C=C(C=CC1)C=1SC=CC1 | C10H7FS
reactant | 5-bromo-2-methylbenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)C | C8H7BrO2
product | 5-Bromo-1-(5-(3-fluorophenyl)-2-thienylmethyl)-2-methylbenzene | BrC=1C=CC(=C(C1)CC=1SC(=CC1)C1=CC(=CC=C1)F)C | C18H14BrFS
